US09402836B2
To a stirred suspension of methyl 6-cyano-1-isopropyl-3-methyl-1H-indole-4-carboxylate (0.50 g, 1.951 mmol) in azidotrimethylsilane (1.0 mL, 7.53 mmol) in a small vial was added tetrabutylammonium fluoride trihydrate (300 mg, 0.951 mmol). The reaction was heated to 85° C. and stirred for 18 hr (attached a small reflux condensor). (The reaction became a semi-solid mass.) The reaction was taken up in EtOAc (75 mL), washed with 1 N HCl (75 mL) (stirred till dissolved). The organic phase was removed, dried (Na2SO4), filtered and concentrated under vacuum. Purification by silica gel chromatography (Analogix, SF40-80 g, 0 to 3% MeOH/CH2C12 with 0.1% HOAc) gave the product methyl 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylate (0.28 g, 0.935 mmol, 48.0% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.40 (d, J=1.3 Hz, 1H), 8.15 (d, J=1.5 Hz, 1H), 7.69 (s, 1H), 4.86 (quin, J=6.6 Hz, 1H), 3.94 (s, 3H), 2.33 (s, 3H), 1.50 (d, J=6.6 Hz, 6H). MS(ES)+m/e 300.3 [M+H]+.

reactant | methyl 6-cyano-1-isopropyl-3-methyl-1H-indole-4-carboxylate | 1.951 mmol, 0.50 g | C(#N)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C15H16N2O2
reactant | azidotrimethylsilane | 7.53 mmol, 1.0 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | tetrabutylammonium fluoride trihydrate | 0.951 mmol, 300 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | MeOH | 80 g | CO | CH4O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | HOAc | CC(=O)O | C2H4O2
product | methyl 1-isopropyl-3-methyl-6-(1H-tetrazol-5-yl)-1H-indole-4-carboxylate | 0.935 mmol, 0.28 g, 48.0% yield | C(C)(C)N1C=C(C=2C(=CC(=CC12)C1=NN=NN1)C(=O)OC)C | C15H17N5O2
